US04522828
A solution of 1-(3-chloro-5-methylphenyl)-1-cyclobutanecarbonitrile (8.0 g) in ether (40 ml) was added to a solution of propyl magnesium bromide [prepared by the reaction of 1-bromopropane (6.7 g) and magnesium (1.3 g)] in ether (80 ml) and the mixture heated under reflux for two and a half hours. Two thirds of the ether was evaporated off and then, after cooling, a solution of sodium borohydride (3.5 g) in ethanol (150 ml) added. The mixture was maintained at 50° C. for one hour and water (50 ml) and then 5N hydrochloric acid (50 ml) added. The ether layer was separated, dried and evaporated to yield a solid which was recrystallised from propan-2-ol to give 1-[1-(3-chloro-5-methylphenyl)cyclobutyl]butylamine hydrochloride (m.p. 145°-146° C.).

reactant | 1-(3-chloro-5-methylphenyl)-1-cyclobutanecarbonitrile | 8.0 g | ClC=1C=C(C=C(C1)C)C1(CCC1)C#N | C12H12ClN
reactant | propyl magnesium bromide | C(CC)[Mg]Br
reactant | 1-bromopropane | 6.7 g | BrCCC | C3H7Br
reactant | magnesium | 1.3 g | [Mg] | Mg
solvent | ether | 40 ml | CCOCC | C4H10O
solvent | ether | 80 ml | CCOCC | C4H10O
product | 1-[1-(3-chloro-5-methylphenyl)cyclobutyl]butylamine hydrochloride | Cl.ClC=1C=C(C=C(C1)C)C1(CCC1)C(CCC)N | InChI=1S/C15H22ClN.ClH/c1-3-5-14(17)15(6-4-7-15)12-8-11(2)9-13(16)10-12;/h8-10,14H,3-7,17H2,1-2H3;1H
